US08604038B2
A solution of tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(1-oxidopyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate (0.465 g, 0.835 mmol) in trifluorotoluene (15 ml) was cooled to 0° C. Cumylamine (0.282 mL, 2.09 mmol) was added, followed by p-toluenesulfonic anhydride (0.273 g, 0.835 mmol) in 2 portions, 5 minutes apart. After 10 minutes, additional cumylamine (0.282 mL, 2.09 mmol) was added, followed by p-toluenesulfonic anhydride (0.273 g, 0.835 mmol) in 2 portions, 5 minutes apart. After 10 minutes, a third addition of cumylamine (0.282 mL, 2.088 mmol) was carried out, followed by p-toluenesulfonic anhydride (273 mg, 0.835 mmol) in 2 portions, 5 minutes apart. After 10 hours, the reaction was diluted with EtOAc (250 mL) and washed with water (2×50 mL) and brine (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel chromatography with 0-100% EtOAc/hexanes to afford tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}{6-[(2-phenylpropan-2-yl)amino]pyridin-3-yl}methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate (349.1 mg, 62%). LC-MS=674.4 (M+1)+. 1H NMR (600 MHz, CD3OD) δ −0.07 (s, 3H), 0.07 (s, 3H), 0.88 (s, 9H), 1.15-1.92 (m, 20H), 2.75 & 2.46 (2 multiplets, 1H), 3.87 (m, 4H), 4.06 (bs, 1H), 5.31 & 5.12 (2 singlets, 1H), 6.00-6.10 (m, 1H), 7.07 (m, 5H), 7.23 (bs, 1H), 7.36 (bs, 2H), 7.81 (bs, 1H), 7.90 (m, 2H).

reactant | tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(1-oxidopyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate | 0.835 mmol, 0.465 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C)C=1C=[N+](C=CC1)[O-] | C30H44N2O6Si
reactant | Cumylamine | 2.09 mmol, 0.282 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | p-toluenesulfonic anhydride | 0.835 mmol, 0.273 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | cumylamine | 2.09 mmol, 0.282 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | p-toluenesulfonic anhydride | 0.835 mmol, 0.273 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | cumylamine | 2.088 mmol, 0.282 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | p-toluenesulfonic anhydride | 0.835 mmol, 273 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | trifluorotoluene | 15 ml | FC(C1=CC=CC=C1)(F)F | C7H5F3
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}{6-[(2-phenylpropan-2-yl)amino]pyridin-3-yl}methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate | 349.1 mg, 62% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C)C=1C=NC(=CC1)NC(C)(C)C1=CC=CC=C1 | C39H55N3O5Si
